US07176306B2
Synthesis of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(morpholino)-6-methylpyridin-3-yl]acetamide
The reaction and treatments of Example 12 were repeated, except that 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide was replaced by 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(morpholino)-6-methylpyridin-3-yl]acetamide, and 2-mercaptobenzimidazole was replaced by 2-mercaptobenzoxazole, to thereby yield the title compound as a colorless foamed substance.

reactant | 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide | OCCN1CCN(CC1)CC(=O)NC=1C(=NC(=CC1SC)C)SC | C16H26N4O2S2
reactant | 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(morpholino)-6-methylpyridin-3-yl]acetamide | OCCN1CCN(CC1)CC(=O)NC=1C(=NC(=CC1N1CCOCC1)C)N1CCOCC1 | C22H36N6O4
reactant | 2-mercaptobenzimidazole | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 2-mercaptobenzoxazole | SC=1OC2=C(N1)C=CC=C2 | C7H5NOS
product | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(morpholino)-6-methylpyridin-3-yl]acetamide | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2N2CCOCC2)C)N2CCOCC2 | C29H39N7O4S
